data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_672438_0,[C:1](/[C:3](=[C:6](\[N:5]([H:11])[H:12])[H:13])[O:7][C:2]([N:4]([H:9])[H:10])=[O:8])([H:14])([H:15])[H:16]>>[C:1]([C:3]([C:6]([C:2]([N:4]([H:9])[H:10])=[O:8])([N:5]([H:11])[H:12])[H:13])=[O:7])([H:14])([H:15])[H:16],53.62928750003519
MR_89115_0,[C:1]([C:2]([H:16])([H:17])[H:18])([C:5]1([N:3]([N:6]([H:10])[H:11])[H:9])/[C:4](=[N:7]/[H:12])[N:8]1[H:13])([H:14])[H:15]>>[C:1]([C:2]([H:16])([H:17])[H:18])([C:4](/[C:5]([N:3]([N:6]([H:10])[H:11])[H:9])=[N:8]/[H:13])=[N:7]/[H:12])([H:14])[H:15],58.70325249999425
MR_46843_0,[C:1](/[C:5](=[C:4]([C:3](=[N:6]\[N:2]([H:7])[H:8])\[H:9])/[H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C@:5]1([H:11])[C:4]([H:10])=[C:3]([H:9])[N:6]1[N:2]([H:7])[H:8])([H:12])([H:13])[H:14],47.425822500002965
MR_250952_0,[C:1]([O:5][H:7])([N:6]([C:3]([C:2]([H:11])([H:12])[H:13])=[O:4])[H:8])([H:9])[H:10]>>[C:1]([O:4]/[C:3]([C:2]([H:11])([H:12])[H:13])=[N:6]/[H:8])([O:5][H:7])([H:9])[H:10],61.53578749997664
MR_677349_1,[N:1]([C:2](=[C:3]([H:9])[H:10])[H:8])([O:4][H:6])[O:5][H:7]>>[N:1]1([O:4][H:6])[C:2]([O:5][H:7])([H:8])[C:3]1([H:9])[H:10],52.28455500000607
MR_334923_1,[C:1]([C:3]12[C:2]([C:4](=[O:8])[H:9])([O:6]1)[N:7]=[C:5]2[H:10])([H:11])([H:12])[H:13]>>[C:1]([c:3]1[c:5]([H:10])[n:7][c:2]([C:4](=[O:8])[H:9])[o:6]1)([H:11])([H:12])[H:13],27.85221500001967
MR_422278_1,[C@@:1]([N:4]([H:10])[H:11])([O:6][H:8])(/[N:7]=[C:3](\[C:2]([H:14])([H:15])[H:16])[N:5]([H:12])[H:13])[H:9]>>[C:1](\[N:4]([H:10])[H:11])(=[N:7]\[C@@:3]([C:2]([H:14])([H:15])[H:16])([N:5]([H:12])[H:13])[O:6][H:8])[H:9],48.80067499999171
MR_105764_0,[C:1]([C:2]([C:5]([H:19])([H:20])[H:21])([C:6]([H:18])([H:22])[H:23])[C:7](=[O:9])[H:11])([C:3]([H:13])([H:14])[H:15])([C:4]([H:12])([H:16])[H:17])[O:8][H:10]>>[C:1]([C:3]([H:13])([H:14])[H:15])([C:4]([H:12])([H:16])[H:17])([C:7]([C:2]([C:5]([H:19])([H:20])[H:21])([C:6]([H:18])([H:22])[H:23])[H:11])=[O:9])[O:8][H:10],61.89722750002716
MR_308995_0,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([C:4]([H:12])([H:19])[H:20])[C:6](/[C:7]([C:5]([H:21])([H:22])[H:23])=[N:9]\[O:8][H:11])=[O:10]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([C:4]([H:12])([H:19])[H:20])[C:7]1([C:5]([H:21])([H:22])[H:23])[C:6](=[O:10])[N:9]1[O:8][H:11],69.89847999997906
MR_278835_0,[C:1](/[C:2]([N:3]([H:7])[H:8])=[C:6](/[N:5]([H:11])[H:12])[H:15])([N:4]([H:9])[H:10])([H:13])[H:14]>>[C:1]1([H:13])([H:14])[C:2]([N:3]([H:7])[H:8])([N:4]([H:9])[H:10])[C:6]1([N:5]([H:11])[H:12])[H:15],56.55531999999553
MR_356894_0,[C:1]([C:3]([H:14])([H:16])[H:17])([C:4]([H:15])([H:18])[H:19])([N:6]([C:2]([H:11])([H:12])[H:13])[O:8][H:10])[C:7]([C:5]([H:20])([H:21])[H:22])=[O:9]>>[C:1]1([C:3]([H:14])([H:16])[H:17])([C:4]([H:15])([H:18])[H:19])[C@:7]([C:5]([H:20])([H:21])[H:22])([N:6]([C:2]([H:11])([H:12])[H:13])[O:8][H:10])[O:9]1,66.38196999997575
MR_658167_1,[C:1]1([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])[C:2]([H:13])([H:14])[C:8]([H:15])=[C:6]([N:7]([H:11])[H:12])[N:5]1[O:9][H:10]>>[C:1]1([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])[C:2]([H:13])([H:14])[C:8]1(/[C:6](=[N:5]/[O:9][H:10])[N:7]([H:11])[H:12])[H:15],49.248082500003534
MR_440831_0,[C:1](/[C:4](=[C:3]([C:5](\[C:2]([H:17])([H:18])[H:19])=[N:9]/[N:6]([H:12])[H:13])/[O:7][H:10])[O:8][H:11])([H:14])([H:15])[H:16]>>[C:1]([C@@:4]1([O:8][H:11])[C:3]([O:7][H:10])=[C:5]([C:2]([H:17])([H:18])[H:19])[N:9]1[N:6]([H:12])[H:13])([H:14])([H:15])[H:16],35.358997500007234
MR_659322_2,[N:1]([C:2]([N:5]([H:12])[H:13])=[O:8])([C:3](=[C:6]([H:14])[H:15])[O:7][H:9])[N:4]([H:10])[H:11]>>[N:1](=[C:3](/[C:6]([C:2]([N:5]([H:12])[H:13])=[O:8])([H:14])[H:15])[O:7][H:9])\[N:4]([H:10])[H:11],52.01096499998343
MR_584045_1,[C:1]([C:2]([H:14])([H:15])[H:16])([N:3]([H:9])[H:10])([O:6][H:8])/[N:7]=[C:5](\[N:4]([H:11])[H:12])[H:13]>>[C:1](\[C:2]([H:14])([H:15])[H:16])([O:6][H:8])=[N:7]/[C:5]([N:3]([H:9])[H:10])([N:4]([H:11])[H:12])[H:13],60.12140250005203
MR_595349_1,[C:1]([C:4]([C:2]([C:3]([C:6]([N:5]([H:13])[H:14])[H:15])[O:8][H:11])[O:7][H:10])[O:9][H:12])([H:16])([H:17])[H:18]>>[C:1]([C:4]1([O:9][H:12])[C:2]([O:7][H:10])=[C:3]([O:8][H:11])[C:6]1([N:5]([H:13])[H:14])[H:15])([H:16])([H:17])[H:18],38.146980000030766
MR_144748_1,[C:1]([C:2]([C:4]([C:5]([O:7][H:9])([O:8][H:16])[H:11])=[C:6]([H:17])[H:18])([H:12])[H:13])(=[C:3]([H:14])[H:15])[H:10]>>[C:1]([C:2]([C:4]([C:5](=[O:8])[H:11])=[C:6]([H:17])[H:18])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([O:7][H:9])[H:10],55.9328399999977
MR_402073_1,[C:1]1([C:3]([H:14])([H:15])[H:16])([O:10][H:11])[C:2]([C:4]([H:17])([H:18])[H:19])([N:9]([H:12])[H:13])[C:8]([C:6]([H:23])([H:24])[H:25])=[C:7]1[C:5]([H:20])([H:21])[H:22]>>[C:1](\[C:3]([H:14])([H:15])[H:16])(=[C:7]([C:5]([H:20])([H:21])[H:22])/[C:8](=[C:2](\[C:4]([H:17])([H:18])[H:19])[N:9]([H:12])[H:13])[C:6]([H:23])([H:24])[H:25])[O:10][H:11],32.42919999998506
